US05420117
Preparation of 5'-O-tert-butyldimethylsilyl-5-fluorouridine (Compound 1)
A 1.50 g quantity of 5-fluorouridine (5.72 mmoles) was dissolved in 5 ml of N,N-dimethylformamide. To the solution were added 520 mg (7.64 mmoles) of imidazole and 633 mg (4.20 mmoles) of tert-butyldimethylsilyl chloride, and the reaction was conducted at room temperature for 15 hours. -The reaction mixture was ice-cooled, and 40 ml of water was added thereto. The reaction mixture was extracted three times with 40 ml of ethyl acetate. The organic layers were combined, washed three times with 50 ml of water and washed three times with 50 ml of a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (chloroform: methanol=20:1). The eluate was concentrated and the residue was recrystallized from ether, giving 1.3 g of the title compound as white crystals. Yield: 60%.

reactant | 5-fluorouridine | 5.72 mmoles | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | imidazole | 7.64 mmoles, 520 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 4.20 mmoles, 633 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5'-O-tert-butyldimethylsilyl-5-fluorouridine | 1.3 g, Yield: 60% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C15H25FN2O6Si
